US05021413
A 1N aqueous sodium hydroxide solution (12.5 ml) was added to a mixture of 2.47 g of 3-(pyrrolidine-1-carbonyl)thiomorpholine monohydrochloride and 20 ml of methylene chloride. The organic layer was extracted and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to yield 1.75 g (83%) of 3-(pyrrolidine-1-carbonyl)thiomorpholine

reactant | sodium hydroxide | 1N, 12.5 ml | [OH-].[Na+]
reactant | 3-(pyrrolidine-1-carbonyl)thiomorpholine monohydrochloride | 2.47 g | Cl.N1(CCCC1)C(=O)C1NCCSC1
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(pyrrolidine-1-carbonyl)thiomorpholine | 1.75 g, 83% | N1(CCCC1)C(=O)C1NCCSC1 | C9H16N2OS
